* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 16.3
R1 n1 a 5
R2 a nc 3
V2 nc nd DC 29.3
R3 nd ne 1
V3 b ne DC 17.7
V4 nf b DC 8.5
R4 nf 0 3
.op
.print dc V(a) V(b)
.end